US09034900B2
5-[3-[(4-methoxyphenyl)methoxy]-5-methylsulfonylphenyl]-1,3-dimethylpyridin-2-one
A mixture of 1-bromo-3-[(4-methoxyphenyl)methoxy]-5-methylsulfonylbenzene (450 mg, 1.2 mmol), 1,3-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-one (300 mg, 1.2 mmol), Pd(dppf)Cl2 (88 mg) and K3PO4 (654 mg, 3 mmol) in dioxane (8 mL) and water (800 uL) was purged with nitrogen for 7 min, capped, and heated to 75° C. for 1 h. After the mixture was filtered through a short bed of celite, the filtrate was concentrated in vacuo and purified by silica gel column chromatography using a gradient of EtOAc (5 to 100%) in DCM to afford the title compound (416 mg, 83%) as a tan solid. 1H NMR (400 MHz, DMSO-d6) δ ppm 2.05-2.14 (s, 3H) 3.25-3.28 (s, 3H) 3.49-3.57 (s, 3H) 3.74-3.81 (s, 3H) 5.12-5.22 (s, 2H) 6.93-7.03 (m, 2H) 7.34-7.47 (m, 3H) 7.52-7.59 (m, 1H) 7.64-7.72 (m, 1H) 7.82-7.90 (m, 1H) 8.14-8.22 (m, 1H). LCMS (M+H)+=414.

reactant | 1-bromo-3-[(4-methoxyphenyl)methoxy]-5-methylsulfonylbenzene | 1.2 mmol, 450 mg | BrC1=CC(=CC(=C1)S(=O)(=O)C)OCC1=CC=C(C=C1)OC | C15H15BrO4S
reactant | 1,3-dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-one | 1.2 mmol, 300 mg | CN1C(C(=CC(=C1)B1OC(C(O1)(C)C)(C)C)C)=O | C13H20BNO3
reactant | K3PO4 | 3 mmol, 654 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 8 mL | O1CCOCC1 | C4H8O2
solvent | water | 800 uL | O | H2O
catalyst | Pd(dppf)Cl2 | 88 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 5-[3-[(4-methoxyphenyl)methoxy]-5-methylsulfonylphenyl]-1,3-dimethylpyridin-2-one | 416 mg, 83% | COC1=CC=C(C=C1)COC=1C=C(C=C(C1)S(=O)(=O)C)C=1C=C(C(N(C1)C)=O)C | C22H23NO5S
